US08420640B2
A suspension of (4-(3-aminophenyl)piperazin-1-yl)(phenyl)methanone (0.5 g, 1.8 mmol), copper acetate (0.65 g, 3.6 mmol), triethylamine (1.7 ml, 12.4 mmol), 4 Å molecular sieves (0.5 g) and phenylboronic acid and pyridine complex (0.70 g, 1.8 mmol) in 30 ml dry dichloromethane was stirred at room temperature overnight. The reaction was quenched with 20 ml water extracted with dichloromethane (3×40 ml), followed by drying over anhydrous sodium sulfate. 3-(4-Benzoylpiperazin-1-yl)-N-phenylbenzenamine (0.42 g, 66%) was obtained by flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 3.20 (d, br, 4H), 3.65 (d, br, 4H), 5.73 (s, 1H), 6.54 (dd, J=8.0, 1.6 Hz, 1H), 6.67 (m, 2H), 6.97 (t, J=7.4 Hz, 1H), 7.11 (dd, J=8.6, 1.0 Hz, 2H), 7.28 (t, J=8.0 Hz, 1H), 7.44 (m, 2H), 7.48 (m, 5H). 13C NMR (125 MHz, CDCl3): δ (ppm) 50.0, 50.1, 50.3, 106.5, 110.0, 110.7, 118.6, 121.6, 127.6, 129.0, 129.8, 130.3, 130.5, 136.1, 143.5, 144.7, 152.6, 170.9.

reactant | (4-(3-aminophenyl)piperazin-1-yl)(phenyl)methanone | 1.8 mmol, 0.5 g | NC=1C=C(C=CC1)N1CCN(CC1)C(=O)C1=CC=CC=C1 | C17H19N3O
reactant | triethylamine | 12.4 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | copper acetate | 3.6 mmol, 0.65 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(4-Benzoylpiperazin-1-yl)-N-phenylbenzenamine | 0.42 g, 66% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C=1C=C(C=CC1)NC1=CC=CC=C1 | C23H23N3O
